US04387238
Following the procedure of Example 1, monoethyl potassium epoxysuccinate (5 g) was successively treated with oxalyl chloride (3.72 g) and cyclohexylamine (5 g) to give 3.5 g of ethyl N-cyclohexyl-2,3-epoxysuccinamate (Compound No. 19) as colorless needles melting at 98°-100° C.

reactant | monoethyl potassium epoxysuccinate | 5 g | O1C(C(=O)O)C1C(=O)O.C(C)[K]
reactant | oxalyl chloride | 3.72 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | cyclohexylamine | 5 g | C1(CCCCC1)N | C6H13N
product | ethyl N-cyclohexyl-2,3-epoxysuccinamate | 3.5 g | C1(CCCCC1)NC(C1C(C(=O)OCC)O1)=O | C12H19NO4
